simulator lang=spectre
global 0

ahdl_include "./dut/settling_window_detector.va"

Vtarget (target 0) vsource dc=0.5
Vtol (tol 0) vsource dc=0.05
Vvin (vin 0) vsource type=pwl wave=[0 0.1 20n 0.1 20.1n 0.58 43n 0.58 43.1n 0.62 55n 0.62 55.1n 0.51 105n 0.51 105.1n 0.7 115n 0.7 115.1n 0.49 150n 0.49]
XDUT (vin target tol settled t_code0 t_code1 t_code2 t_code3 t_code4 t_code5 t_code6 t_code7) settling_window_detector

tran tran stop=150n maxstep=100p
save vin target tol settled t_code0 t_code1 t_code2 t_code3 t_code4 t_code5 t_code6 t_code7
