simulator lang=spectre
global 0

ahdl_include "./dut/single_shot_timer_pulse.va"

Vin (vin 0) vsource type=pwl wave=[0 0 0.6n 0 0.62n 0.9 1.2n 0.9 1.22n 0 3.6n 0 3.62n 0.9 4.0n 0.9 4.02n 0 6n 0]
XDUT (vin vout) single_shot_timer_pulse

tran tran stop=5.8n maxstep=5p
save vin vout
