simulator lang=spectre
global 0

ahdl_include "./dut/calibration_affine_transform.va"

Vclk (clk 0) vsource type=pulse val0=0 val1=0.9 delay=220p period=1n width=420p rise=25p fall=25p
Vrst (rst 0) vsource type=pwl wave=[0 0.9 1.1n 0.9 1.15n 0 9.2n 0 9.25n 0.9 10.1n 0.9 10.15n 0 13n 0]
Vraw (raw 0) vsource type=pwl wave=[0 0.35 2n 0.35 2.05n 0.72 4n 0.72 4.05n 0.18 6n 0.18 6.05n 0.86 8n 0.86 8.05n 0.42 10n 0.42 10.05n 0.62 13n 0.62]
Vgain (gain_ctrl 0) vsource type=pwl wave=[0 0.18 4n 0.18 4.05n 0.72 8n 0.72 8.05n 0.45 13n 0.45]
Voffset (offset_ctrl 0) vsource type=pwl wave=[0 0.45 2n 0.45 2.05n 0.56 4n 0.56 4.05n 0.0 6n 0.0 6.05n 0.75 8n 0.75 8.05n 0.3 10n 0.3 10.05n 0.48 13n 0.48]
Ven (en 0) vsource type=pwl wave=[0 0.9 7.8n 0.9 7.85n 0 9n 0 9.05n 0.9 13n 0.9]
XDUT (clk rst raw gain_ctrl offset_ctrl en out resid_metric) calibration_affine_transform

tran tran stop=13n maxstep=10p
save clk en gain_ctrl offset_ctrl out raw resid_metric rst
