simulator lang=spectre
global 0

ahdl_include "./dut/cdac_bidirect_residue.va"

Vvin (vin 0) vsource type=pwl wave=[0 0.30 8n 0.30 8.1n -0.20]
Vclks (clks 0) vsource type=pwl wave=[0 1 0.8n 1 0.85n 0 8.15n 0 8.20n 1 8.40n 1 8.45n 0]
Vd7 (dctrl7 0) vsource type=pwl wave=[0 1 1.8n 1 1.85n 0 8n 0]
Vd6 (dctrl6 0) vsource type=pwl wave=[0 0 2.8n 0 2.85n 1 8n 1]
Vd5 (dctrl5 0) vsource type=pwl wave=[0 0 3.8n 0 3.85n 1 8n 1]
Vd4 (dctrl4 0) vsource type=pwl wave=[0 0 4.8n 0 4.85n 1 8n 1]
Vd3 (dctrl3 0) vsource type=pwl wave=[0 0 5.8n 0 5.85n 1]
Vd2 (dctrl2 0) vsource type=pwl wave=[0 0 6.8n 0 6.85n 1]
Vd1 (dctrl1 0) vsource type=pwl wave=[0 0 7.4n 0 7.45n 1]
XDUT (vin clks dctrl1 dctrl2 dctrl3 dctrl4 dctrl5 dctrl6 dctrl7 vres) cdac_bidirect_residue

tran tran stop=9.5n maxstep=10p
save clks dctrl1 dctrl2 dctrl3 dctrl4 dctrl5 dctrl6 dctrl7 vin vres
